US06465505B1
Synthesis of 4-(2-Ethyl-6-methylbenzylamino)-2-methylbenzimidazole
4-amino-2-methylbenzimidazole (0.4 g, 2.7 mmol) and 2-ethyl-6-methylbenzylchloride (0.46 g, 2.7 mmol) were dissolved in 10 ml dimethoxyethane. Sodium carbonate (0.5 g, 4.7 mmol) and (0.2 g, 4.7 mmol) of potassium iodide were added to the solution. The reaction mixture was refluxed to for 2 h. Inorganic salts were removed by filtration and washed with dimethoxyethane. The filtrate was evaporated to dryness. The residue was purified by column chromatography on silica gel. The product was eluted with a 50:50 mixture of methylene chloride and ethyl acetate. There was obtained 0.21 g of the title compound. (1H-NMR, 400 MHz, CDCl3): 1.1 (t, 3H), 2.35 (s, 3H), 2.45 (s, 3H), 2.70 (q, 2H), 4.35 (s, 2H), 4.45 (bs, 1H), 6.55 (d, 1H), 6.75 (d, 1H), 6.95-7.20 (m, 4H).

reactant | 4-amino-2-methylbenzimidazole | 2.7 mmol, 0.4 g | NC1=CC=CC=2N=C(NC21)C | C8H9N3
reactant | 2-ethyl-6-methylbenzylchloride | 2.7 mmol, 0.46 g | C(C)C1=C(CCl)C(=CC=C1)C | C10H13Cl
reactant | Sodium carbonate | 4.7 mmol, 0.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 4.7 mmol, 0.2 g | [I-].[K+]
solvent | dimethoxyethane | 10 ml | C(OC)COC | C4H10O2
product | 4-(2-Ethyl-6-methylbenzylamino)-2-methylbenzimidazole | 0.21 g | C(C)C1=C(CNC2=CC=CC=3N=C(NC32)C)C(=CC=C1)C | C18H21N3
